US04895860
Step (3) Preparation of N'-Hydroxy-5-indanylethanimidamide
A stirred mixture of NaOMe (25 wt % in MeOH, 16.0 mL, 0.070 mol), hydroxylamine hydrochloride (4.9 g, 0.070 mol), and MeOH (60 mL) was heated under reflux for 30 minutes. 5-Indanylacetonitrile (10.0 g, 0.063 mol) was added and heating was continued for 18 hours. The mixture was cooled, concentrated, and partitioned between H2O and ether. The organic phase was dried (MgSO4) and concentrated to give a yellow oil: 11.4 g. The crude product was purified by flash chromatography (eluant 20% EtOAc/hexane; 60% EtOAc/hexane) and recrystallized from ether/hexane to give 6.5 g (54%) of a pale yellow solid, m.p. 60° C.

reactant | NaOMe | 0.070 mol, 16.0 mL | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.070 mol, 4.9 g | Cl.NO
reactant | 5-Indanylacetonitrile | 0.063 mol, 10.0 g | C1CCC2=CC(=CC=C12)CC#N | C11H11N
solvent | MeOH | 60 mL | CO | CH4O
product | N'-Hydroxy-5-indanylethanimidamide | 6.5 g, 54% | ON=C(CC=1C=C2CCCC2=CC1)N | C11H14N2O
